US04159338
Alternatively, a mixture of 20.0 g (56.0 mmoles) of 3-pyridyl α-bromobenzyl ketone hydrobromide and 24.0 g (0.24 mole) of potassium acetate in 100 ml of acetic anhydride was stirred overnight at room temperature. The reaction mixture was poured into water and the product extracted into ether. The combined ether layers were washed with water and then 10% aqueous sodium bicarbonate solution. The ether layer was dried over potassium carbonate and evaporated. A solution of the residue in 140 ml of 1 N aqueous hydrochloric acid was heated at reflux for 30 minutes and after cooling made basic with solid sodium carbonate. The product was extracted into ether and the combined ether extracts evaporated, after drying over anhydrous potassium carbonate, to give 8.15 g of 3-pyridyl α-hydroxybenzyl ketone.

reactant | 3-pyridyl α-bromobenzyl ketone hydrobromide | 56.0 mmoles, 20.0 g | Br.BrC(C1=CC=CC=C1)C(=O)C=1C=NC=CC1
reactant | potassium acetate | 0.24 mole, 24.0 g | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-pyridyl α-hydroxybenzyl ketone | 8.15 g | OC(C1=CC=CC=C1)C(=O)C=1C=NC=CC1 | C13H11NO2
